US06048885
Toluene (3 ml), butanol (3 ml), cysteamine hydrochloride (0.34 g, 3.0 mmol) and triethylamine (0.42 ml, 3 =mol) were added to 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetoaldehyde (0.45 g, 1.5 mmol), and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, half-saturated brine (100 ml) was added, and the mixture was extracted with dichloromethane (50 ml) twice. The extracts were dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-(2,5-dimethylphenoxymethyl)phenyl thiazolidin-2-yl ketone O-methyloxime (0.49 g, yield 91.6%) as a colorless oil.

reactant | Toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
reactant | butanol | 3 ml | C(CCC)O | C4H10O
reactant | cysteamine hydrochloride | 3.0 mmol, 0.34 g | Cl.NCCS
reactant | 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetoaldehyde | 1.5 mmol, 0.45 g | CC1=C(OCC2=C(C=CC=C2)C(C=O)=NOC)C=C(C=C1)C | C18H19NO3
solvent | brine | 100 ml | [Cl-].[Na+].O
solvent | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
product | 2-(2,5-dimethylphenoxymethyl)phenyl thiazolidin-2-yl ketone O-methyloxime | 0.49 g, yield 91.6% | CON=C(C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C)C1SCCN1 | C20H24N2O2S
